US08686155B2
Synthesis of [4-(2-Chloro-pyridin-3-yl)-[1,3,5]triazin-2-yl]methyl-amine
To 2-chloro-4-(2-chloro-pyridin-3-yl)-[1,3,5]triazine (10.0 g, 44.0 mmol) in 55 ml of methylene chloride was added methylamine (45 ml, 88.0 mmol) as a 2.0 M solution in THF at 0° C. After stirring at room temperature for 18 h, the mixture was diluted with acetone and filtered through a plug of silica gel and concentrated to yield the desired product. MS m/z=222 [M+H]+. Calc'd for C9H8ClN5: 221.65.

reactant | 2-chloro-4-(2-chloro-pyridin-3-yl)-[1,3,5]triazine | 44.0 mmol, 10.0 g | ClC1=NC=NC(=N1)C=1C(=NC=CC1)Cl | C8H4Cl2N4
reactant | methylamine | 88.0 mmol, 45 ml | CN | CH5N
solvent | methylene chloride | 55 ml | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | [4-(2-Chloro-pyridin-3-yl)-[1,3,5]triazin-2-yl]methyl-amine | ClC1=NC=CC=C1C1=NC(=NC=N1)CN | C9H8ClN5
